US07432258B2
a) 6,7-dichloro-2(1H)-quinoxalinone
4,5-Dichlorophenylenediamine (26.0 g, 147 mmol) and 50% ethyl glyoxylate in toluene (32 mL, 161 mmol) in ethanol (250 mL) was refluxed for 18 h. The reaction was cooled and the crystallized brown product was collected by filtration, then washed with ethanol (50 mL). The obtained product (25.5 g, 81%) was 96% pure via LC/MS. MS (ES) m/e 215[M+H]+.

reactant | 4,5-Dichlorophenylenediamine | 147 mmol, 26.0 g | ClC1=CC(=C(C=C1Cl)N)N | C6H6Cl2N2
reactant | ethyl glyoxylate | C(C=O)(=O)OCC | C4H6O3
reactant | toluene | 161 mmol, 32 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 6,7-dichloro-2(1H)-quinoxalinone | ClC=1C=C2N=CC(NC2=CC1Cl)=O | C8H4Cl2N2O
